US04443627
In a 2.5 liter double casing vessel, equipped with a discharge cock, a mechanical stirrer and thermometer, 1062.7 g of trimethylamine (44.5 percent in water=472.9 g, 100 percent=8 mole) was put up and cooled to 10° C. By means of a dosing pump and a hose submerged in the TMA solution, 272.8 g of 4-chloroacetoacetic acid ethyl ester (96.0 percent=261.9 g, 100 percent=1.59 mole) was added by doses during 3 hours at 10° to 12° C. and the yellowish reaction mixture was concentrated at 40° C. and 25 torr in such manner until the pH value reached 7.6. The excess TMA was subsequently condensed out by means of three cooling traps and was recaptured. After a slight lowering of the pH value with 65 ml of 36% hydrochloric acid to 6 and after the filtering out of the yellowish precipitate obtained (2,5-diethoxycarbonyl-1,4-cyclohexadiene), the reaction solution was hydrogenated in a 2-liter autoclave equipped with a stirring mechanism for 7 hours at 10° C. and 11 atu of pressure with the help of 8.8 g of platinum/activated charcoal catalyst.

reactant | trimethylamine | 8 mole, 1062.7 g | CN(C)C | C3H9N
reactant | 4-chloroacetoacetic acid ethyl ester | 1.59 mole, 272.8 g | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
reactant | hydrochloric acid | 65 ml | Cl | ClH
product | 2,5-diethoxycarbonyl-1,4-cyclohexadiene | C(C)OC(=O)C1=CCC(=CC1)C(=O)OCC | C12H16O4
